US08871767B2
3-[3-[[2-[3-(2,2-dimethylpropanoylamino)-4-methyl-phenyl]imidazo[2,1-f]pyridazin-6-yl]carbamoyl]phenyl]prop-2-enoic acid
A 20-mL vial is charged with ethyl-3-[3-[[2-[3-(2,2-dimethylpropanoylamino)-4-methyl-phenyl]imidazo[2,1-f]pyridazin-6-yl]carbamoyl]phenyl]prop-2-enoate (0.042 g, 0.08 mmol) and a solution of THF-MeOH (1 mL, 1:1). To this mixture is added aqueous NaOH (1 mL, 1 M), then stirred at 50° C. for 1 hour. The mixture is concentrated to remove the organics and extracted with EtOAc once. Aqueous HCl (1M) is added to lower the pH to 2 and the resulting solids are filtered to give the title compound (0.025 g), which is used without further purification. LCMS (m/z)=498.5 [M+H]+, tR=2.47 min.

reactant | ethyl-3-[3-[[2-[3-(2,2-dimethylpropanoylamino)-4-methyl-phenyl]imidazo[2,1-f]pyridazin-6-yl]carbamoyl]phenyl]prop-2-enoate | 0.08 mmol, 0.042 g | C(C)OC(C=CC1=CC(=CC=C1)C(NC1=NN2C(C=C1)=NC(=C2)C2=CC(=C(C=C2)C)NC(C(C)(C)C)=O)=O)=O | C30H31N5O4
reactant | NaOH | 1 M, 1 mL | [OH-].[Na+]
solvent | THF MeOH | 1 mL | C1CCOC1.CO
product | 3-[3-[[2-[3-(2,2-dimethylpropanoylamino)-4-methyl-phenyl]imidazo[2,1-f]pyridazin-6-yl]carbamoyl]phenyl]prop-2-enoic acid | 0.025 g | CC(C(=O)NC=1C=C(C=CC1C)C=1N=C2C=CC(=NN2C1)NC(=O)C=1C=C(C=CC1)C=CC(=O)O)(C)C | C28H27N5O4
